US05113009
The same esterification procedure as in Example 1 was followed with the exception that the L-phenylalanine was replaced with 182.6 g of L-lysine hydrochloride and that 182.6 g of methanol and 87.3 g of hydrochloric acid were used. Following cooling in order to deposit the crystals, the latter were collected by filtration and then dried to obtain 196.2 g (81.3% yield) of L-lysine methyl ester dihydrochloride having a purity of 96.6% and containing 0.2% of water and 1.3% of L-lysine hydrochloride.

reactant | L-phenylalanine | N[C@@H](CC1=CC=CC=C1)C(=O)O | C9H11NO2
reactant | L-lysine hydrochloride | 182.6 g | Cl.N[C@@H](CCCCN)C(=O)O
reactant | hydrochloric acid | 87.3 g | Cl | ClH
solvent | methanol | 182.6 g | CO | CH4O
product | L-lysine methyl ester dihydrochloride | 196.2 g, 81.3% yield | Cl.Cl.COC([C@@H](N)CCCCN)=O | InChI=1S/C7H16N2O2.2ClH/c1-11-7(10)6(9)4-2-3-5-8;;/h6H,2-5,8-9H2,1H3;2*1H/t6-;;/m0../s1
